US09102682B2
Intermediate J was hydrogenated using 10% Pd/C under hydrogen at 50 psi in a pressure vessel to afford tert-butyl N-[(2S)-2-amino-3,3-dimethyl-butyl]carbamate which was then reacted with 5-bromo-2,4-dichloro-pyrimidine using analogous reaction conditions as described using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate to afford tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3,3-dimethyl-butyl]carbamate. LCMS (ESI) 407 (M+H).

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3,3-dimethyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)N[C@H](CNC(OC(C)(C)C)=O)C(C)(C)C | C15H24BrClN4O2
